US07667041B2
Synthesis of (E)-5-chloro-2-[4-(2-chloro-1H-imidazol-1-yl)-3-methoxybenzylidene]valeric acid
A trifluoroacetic acid (15 mL) solution of 5-chloro-2-(4-(2-chloro-1H-imidazol-1-yl)-3-methoxybenzylidene)valeric acid tert-butyl ester (1.35 g) was agitated under ice-cooling. The reaction solution was concentrated under reduced pressure after 2 hours. When the residue was purified in LC-MS, 0.99 g of the title compound was obtained. The physical properties of the compound are as follows.

reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-chloro-2-(4-(2-chloro-1H-imidazol-1-yl)-3-methoxybenzylidene)valeric acid tert-butyl ester | 1.35 g | C(C)(C)(C)OC(C(CCCCl)=CC1=CC(=C(C=C1)N1C(=NC=C1)Cl)OC)=O | C20H24Cl2N2O3
product | (E)-5-chloro-2-[4-(2-chloro-1H-imidazol-1-yl)-3-methoxybenzylidene]valeric acid | 0.99 g | ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C(=NC=C1)Cl)OC | C16H16Cl2N2O3
